US08754068B2
Preparation of (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(2-carboxyethyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid
A mixture of 3-(4-((1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-3a-(benzyloxycarbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)phenyl)propanoic acid (60 mg, 0.089 mmol) and 10% Pd/C (28.3 mg, 0.027 mmol) in Ethyl acetate (2 mL) was stirred under 1 ATM of H2 for 24 hours. LCMS indicated the completion of the reaction. The reaction mixture was filtered and the white solid was collected. The solid was purified by Prep. HPLC to provide the desired product, (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(2-carboxyethyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid, as white solid (10.32 mg, 30%). LCMS: m/e 585.59 (M−H)−, 4.38 min (method 2). 1H NMR (599 MHz, DMSO-D6_CDCl3) δ ppm 0.91 (s, 3H), 0.93 (s, 3H), 1.00 (s, 6H), 1.02 (s, 3H), 1.05-1.72 (m, 17H), 1.71 (s, 3H), 1.84-1.95 (m, 2H), 2.10 (dd, J=17.58, 6.44 Hz, 1H), 2.20 (d, J=11.72 Hz, 1H), 2.30-2.39 (m, 1H), 2.60 (s, 2H), 2.85 (t, J=7.62 Hz, 2H), 3.02 (td, J=10.25, 5.27 Hz, 1H), 4.61 (br. s, 1H), 4.74 (s, 1H), 5.23 (d, J=5.27 Hz, 1H), 6.94 (d, J=7.62 Hz, 1H), 6.98 (s, 1H), 7.12 (d, J=8.20 Hz, 1H), 7.20 (t, J=7.62 Hz, 1H).

reactant | 3-(4-((1R,3aS,5aR,5bR,7aR,11aS,13aR,13bR)-3a-(benzyloxycarbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)phenyl)propanoic acid | 0.089 mmol, 60 mg | C(C1=CC=CC=C1)OC(=O)[C@]12[C@@H]([C@H]3CCC4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C=C1)CCC(=O)O)C)[C@@H](CC2)C(=C)C | C46H60O4
solvent | Ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.027 mmol, 28.3 mg | [Pd] | Pd
product | (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(2-carboxyethyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid | C(=O)(O)CCC1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)O)C)C)(C)C | C39H54O4
